US07560558B2
Compound 23: 6-[(6,7-Dimethoxy-4-quinolyl)oxy]-1,4-dihydro-2H-3,1-benzoxazin-2-one
{2-Amino-5-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}methanol (63 mg) was dissolved in heated triethylamine/toluene (1.2 ml/6 ml) to prepare a solution. Triphosgene (98 mg) was added to the solution and was heated under reflux for 2 min. The reaction solution was cooled to room temperature, water was then added to the reaction solution, and the mixture was extracted with chloroform. The chloroform layer was then washed with water and saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was purified by column chromatography on silica gel using acetone-chloroform to give the title compound (24 mg, yield 39%).

reactant | {2-Amino-5-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}methanol | 63 mg | NC1=C(C=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC)CO | C18H18N2O4
reactant | Triphosgene | 98 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | water | O | H2O
solvent | triethylamine toluene | 1.2 ml | C(C)N(CC)CC.C1(=CC=CC=C1)C
product | 6-[(6,7-Dimethoxy-4-quinolyl)oxy]-1,4-dihydro-2H-3,1-benzoxazin-2-one | 24 mg, yield 39% | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C=CC2=C(COC(N2)=O)C1 | C19H16N2O5
